US06432632B1
SPB was prepared according to the synthesis scheme shown in FIG. 2. In 20 ml of dimethylsulfoxide (DMF), 2.25 g of 1-pyrenebutanoic acid (7.8 mmol: obtained from Molecular Probes, Inc.) and 1.2 g of N-hydroxy succinimide (10.4 mmol: obtained from Wako Pure Chemical Industries, Ltd.) were dissolved. After the mixed solution was cooled to 0° C., 2.69 g of 1,3-dichlorohexylcarbodiimide (13.1 mmol: DCC) was added thereto. Then, the mixture was reacted at 0° C. for 24 hours while stirring. After the reacted solution was filtered with a 0.45 μm filter, the filtrate was collected and dried using an evaporator. Then, the filtrate was recrystallized from 95% ethanol, thereby obtaining 1.88 g of succinimidyl-1-pyrenebutanoic acid (yield: 70%).

reactant | 1-pyrenebutanoic acid | 7.8 mmol, 2.25 g | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)CCCC(=O)O | C20H16O2
reactant | N-hydroxy succinimide | 10.4 mmol, 1.2 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1,3-dichlorohexylcarbodiimide | 13.1 mmol, 2.69 g | ClC(CC(CCC)Cl)N=C=N | C7H12Cl2N2
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | succinimidyl-1-pyrenebutanoic acid | 1.88 g, yield: 70% | C1(CCC(N1C1=C(C2=CC=C3C=CC=C4C=CC(=C1)C2=C43)CCCC(=O)O)=O)=O | C24H19NO4
